US05663053
11-(3,4,5-Triphenyl-2-oxo-1,2-dihydroimidazol-1-yl)undecanoic acid
1,4,5-Triphenylimidazol-2-one was treated with ethyl 9-bromo-undecanoate and potassium carbonate in butanone, followed by sodium hydroxide in ethanol and water, to give after work-up the title compound, m.p. 83°-84° C. Found: C, 77.5; H, 7.3; N, 5.4%; C32H36N2O3 requires: C, 77.4; H, 7.3; N, 5.6%

reactant | 1,4,5-Triphenylimidazol-2-one | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | ethyl 9-bromo-undecanoate | BrC(CCCCCCCC(=O)OCC)CC | C13H25BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | butanone | CC(CC)=O | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 11-(3,4,5-Triphenyl-2-oxo-1,2-dihydroimidazol-1-yl)undecanoic acid | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCCCC(=O)O)=O | C32H36N2O3
